US09315475B2
nBuLi (5.67 mL, 14.2 mmol) was added to a solution of tert-butyl (2,5-difluorophenyl)carbamate (1.08 g, 4.73 mmol) and TMEDA (2.14 mL, 14.2 mmol) in THF (21.6 mL) at −78° C. over 20 minutes, ensuring the internal temperature remained below −70° C. The resulting solution was stirred at −78° C. for 1 h. Iodine (3.60 g, 14.2 mmol) in THF (10 mL) was added dropwise over 30 min, also ensuring the internal temperature remained below −70° C. The resulting reaction was stirred for 1 h at −78° C., The reaction was quenched at −78° C. with water and the reaction warmed to room temperature. 10% Sodium thiosulfate was added until the iodine color dissipated and the mixture was then extracted with ethyl acetate (3×50 mL). The combined organic fractions were dried (MgSO4), filtered and concentrated. The crude material was purified on silica gel, eluting 0-60% EtOAc in hexanes over 28 minutes to afford tert-butyl (3,6-difluoro-2-iodophenyl)carbamate (1.14 g, 3.20 mmol) as a white crystalline solid. MS (ESI): m/z=300.2 (M+H-[t-Bu]).

reactant | nBuLi | 14.2 mmol, 5.67 mL | [Li]CCCC
reactant | tert-butyl (2,5-difluorophenyl)carbamate | 4.73 mmol, 1.08 g | FC1=C(C=C(C=C1)F)NC(OC(C)(C)C)=O | C11H13F2NO2
reactant | TMEDA | 14.2 mmol, 2.14 mL | CN(C)CCN(C)C | C6H16N2
reactant | Iodine | 14.2 mmol, 3.60 g | II | I2
solvent | THF | 21.6 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl (3,6-difluoro-2-iodophenyl)carbamate | 3.20 mmol, 1.14 g | FC=1C(=C(C(=CC1)F)NC(OC(C)(C)C)=O)I | C11H12F2INO2
